US08604069B2
(A-82-14) tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-methoxymethylcarbamoylvalerate
4-tert-Butyl 2-[2-(tert-butyldiphenylsilanyloxy)ethyl]succinate (437.4 g), triethylamine (171 mL) and DMF (2000 mL) were mixed. To the mixture were added N,O-dimethylhydroxylamine hydrochloride (111 g), HOBt.H2O (161 g) and WSC.HCl (201 g) at ice temperature. After stirring at RT overnight, water (800 mL) was poured into the reaction mixture and the mixture was extracted with hexane (2.4 L). The organic layer was washed with water (1.2 L) and 10 w/v % saline solution (1.2 L). The aqueous layer was extracted with hexane (2.4 L) once again and the combined organic layer was dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (425.1 g) as a crude product.

reactant | 4-tert-Butyl 2-[2-(tert-butyldiphenylsilanyloxy)ethyl]succinate | 437.4 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(C(=O)[O-])CC(=O)OC(C)(C)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 111 g | Cl.CNOC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 201 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 800 mL | O | H2O
solvent | H2O | 161 g | O | H2O
solvent | DMF | 2000 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 171 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-methoxymethylcarbamoylvalerate | 425.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(NCOC)=O | C28H41NO5Si
